US06340759B1
According to the method of Example 10-1, N-methyl-2-methylbenzamide (4.96 g) and 2-cyano-4-methoxypyridine (4.46 g) were reacted, to give 3-(4-methoxypyridin-2-yl)isoquinolin-1-one (2.51 g).

reactant | N-methyl-2-methylbenzamide | 4.96 g | CNC(C1=C(C=CC=C1)C)=O | C9H11NO
reactant | 2-cyano-4-methoxypyridine | 4.46 g | C(#N)C1=NC=CC(=C1)OC | C7H6N2O
product | 3-(4-methoxypyridin-2-yl)isoquinolin-1-one | 2.51 g | COC1=CC(=NC=C1)C=1NC(C2=CC=CC=C2C1)=O | C15H12N2O2
